Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
___ Kapseal / trazodone / Ultram
 
Attending: ___.
 
Chief Complaint:
s/p Motor vehicle crash
 
Major Surgical or Invasive Procedure:
___: ORIF right radius, ex-fix left tibial plateau
___: Removal of ex-fix, ORIF left tibial plateau

 
History of Present Illness:
This patient is a ___ year old female with a history of a
known seizure disorder who has been brought in by EMS status
post seizure and motor vehicle versus telephone pole.
 
Per EMS report, the patient was an unrestrained driver
talking on her cellphone while driving with her sister when
she had a seizure causing her to lose control of her
vehicle. EMS reports that there was airbag deployment, and
state that the patient sustained head trauma against the
windshield during the accident. The patient was alert and
oriented in the field.
 
Upon arrival to ___ ED, the patient complains of
left-sided chest pain, shortness of breath, right wrist
pain, and left lower extremity pain. Both the patient's
right forearm and left tibia/fibula arrive with splints in
place.

 
Past Medical History:
Juvenile Myoclonic Epilepsy  
Sleep Apnea  
Depression  
Fibromyalgia  
GERD  
PSH:  
C-section ___  
CCY ___  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Upon presentation to ___:
HR: 112 BP: 108/60 Resp: 14 O(2)Sat: 100 Normal
 
Constitutional: in pain, uncomfortable
HEENT: Mid forehead hematoma.
Arrives with cervical collar in place. No neck crepitus. No
blood in nares or oropharynx. No hemotypanum.
Chest: Airway intact. Normal breath sounds bilaterally. No
chest crepitus. Sternum is tender to palpation.
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Pelvic: Pelvis stable to compression.
Rectal: No ecchymoses over the perineum.
Extr/Back: Bilateral palpable femoral
pulses.
Right upper extremity: obvious deformity of the wrist. Right
hand is neurovascularly intact.
Left lower extremity: obvious deformity of the proximal
tibia/fibula. Inferior tibial swelling.
Skin: Warm and dry
Neuro: Speech fluent. Moving all extremities
Psych: Alert, oriented.
___: No petechiae

PHYSICAL EXAMINATION ON DISCHARGE:
Awake and alert, no acute distress, pleasant

RUE: Splint in place.  Fingers warm and well-perfused.  
+EPL/FPL/DIO/FDS fire.  +SILT median/radial/ulnar.  Good grip 
strength.

LLE: ___ fire.  Sensation intact to light touch over 
SPN, DPN, TN, saphenous, and sural nerve distributions.  Foot is 
warm and well-perfused.  Patient is moving all toes.
 
Pertinent Results:
___ 09:40PM   VALPROATE-78
___ 06:47PM   WBC-11.3* RBC-3.61* HGB-10.5* HCT-29.9* 
MCV-83 MCH-29.0 MCHC-35.0 RDW-13.8
___ 06:47PM   PLT COUNT-257
___ 06:15PM   GLUCOSE-120* UREA N-11 CREAT-0.4 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-22 ANION GAP-18
___ 10:28AM   GLUCOSE-179* NA+-138 K+-3.4 CL--100 TCO2-24
___ 10:20AM   CK(CPK)-196
___ 10:20AM   cTropnT-<0.01
___ 10:20AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

CT head:
IMPRESSION: No evidence of acute intracranial process.

CT c-spine
IMPRESSION: 
1. No evidence of fracture or malalignment. 
2. Degenerative changes are more prominent at the level of C5-C6 
as described above. 
3. Left thyroid lobe nodule. 

CT chest/abd/pelvis:
IMPRESSION: 
1. Left-sided (anterior ___ rib fractures. 
2. No other evidence of acute traumatic injury in the thorax or 
the abdomen. 
3. Left ovarian cyst needs followup with ultrasound if patient 
is 
postmenopausal. 

___ 04:55AM BLOOD WBC-10.3 RBC-3.31* Hgb-9.7* Hct-28.2* 
MCV-85 MCH-29.2 MCHC-34.3 RDW-14.4 Plt ___
___ 04:55AM BLOOD Plt ___
___ 04:57AM BLOOD Glucose-106* UreaN-8 Creat-0.4 Na-137 
K-3.6 Cl-97 HCO3-35* AnGap-9
___ 04:57AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.1
___ 04:55AM BLOOD Valproa-44*
 
Brief Hospital Course:
Ms. ___ was admitted to the Acute Care Surgery team 
following a motor vehicle accident.  The Orthopaedic Trauma 
service was consulted for repair of the right radius and left 
tibial plateau fractures, and on ___ the patient was taken to 
the Operating Room for open reduction and internal fixation of 
the right radius as well as external fixation of the left tibia. 
 Please see Operative Report for full details.  The patient 
tolerated the procedure well, and there were no complications.  
She received perioperative antibiotics as well as Lovenox for 
DVT prophylaxis.  Postoperatively, the patient was transfused 2 
units of pRBCs for acute blood loss anemia.  On ___, the 
patient returned to ___ Operating Room for removal of the 
external fixator and open reduction and internal fixation of the 
left tibia.  Again, the patient tolerated the procedure well.  
Post-operatively, she was transferred to the Orthopaedic Surgery 
service for further care.   

The Neurology service was consulted during this hospitalization 
given the patient's seizure history. Continuous EEG monitoring 
was performed, with no clear seizure events identified.  Her 
home anti-seizure medications were continued and her Depakote 
levels were followed.  She should continue to have daily 
Depakote levels drawn at the rehab facility.

The patient worked with both the Physical and Occupational 
Therapy services during her hospitalization and made steady 
progress.

On ___, the patient fell from a seated position on the side 
of her bed.  The fall was witnessed, and there was no headstrike 
or loss of consciousness.  X-rays of the left leg and right arm 
were performed to ensure that there was no hardware complication 
or new fracture.

The patient was discharged to rehab in stable condition with 
detailed precautionary instructions as well as instructions 
regarding follow-up.  She was able to void spontaneously, with 
pain controlled by oral pain medications.  She expressed 
readiness for discharge to a rehab facility.  She was discharged 
to rehab in stable condition.
 
Medications on Admission:
depakote ER 500 mg qhs, gabapentin 300 mg', Lamictal ER 200 mg'  


 
Discharge Medications:
1. lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. divalproex ___ mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO QAM (once a day (in the 
morning)).  
3. divalproex ___ mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO QPM (once a day (in the 
evening)).  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours): Maximum of 4000 mg per day.  
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. divalproex ___ mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO QAM (once a day (in the 
morning)).  
8. divalproex ___ mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO QPM (once a day (in the 
evening)).  
9. lamotrigine 100 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
10. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for Pain: HOLD if somnolent, confused, RR <12.
Disp:*65 Tablet(s)* Refills:*0*
11. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) Syringe 
Subcutaneous QHS (once a day (at bedtime)) for 4 weeks.
Disp:*28 Syringe* Refills:*0*
12. multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
13. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  
14. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p Motor vehicle crash
Injuries:
1. Left tibial plateau fracture 
2. Left lateral malleolus fracture 
3. Right distal radius fracture 
4. Left rib fractures ___. Acute blood loss anemia
6. Seizure disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital following a motor vehicle 
collision in which you sustained rib fractures and fractures of 
your right radius, left tibia and ankle. You required 2 
operations to some of your extremity fractures.

Because of your seizure history you were seen by the Neurology 
team and monitored via EEG. Your anti-seizure medications were 
continued.

**PLEASE CONTINUE TO CHECK AND MONITOR DAILY VALPROIC ACID 
LEVELS.**

Wound Care:
- Keep Incision clean and dry.
- You can get the wounds wet or take a shower starting from 7 
days after surgery, but no baths or swimming for at least 4 
weeks.
- Dry sterile dressing may be changed daily.  No dressing is 
needed if wound continues to be non-draining.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.

Activity:
- Continue to be touch-down weight-bearing on your left leg and 
non-weightbearing (platform walker/crutches okay) on your right 
arm
- Elevate right arm and left leg  to reduce swelling and pain.
- Do not remove splint.  Keep splint dry.

Other Instructions
- Resume your regular diet.
- Avoid nicotine products to optimize healing.
- Resume your home medications. Take all medications as 
instructed.
- Continue taking the Lovenox to prevent blood clots.
- You have also been given Additional Medications to control 
your pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.
- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.
- If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.
Physical Therapy:
--LLE: TDWB
--RUE: ___, ok to use platform walker/crutch
Treatments Frequency:
--Any stitches or staples that need to be removed will be taken 
out at your 2-week follow-up appointment.
--Left leg: Unlocked ___ brace should be worn out of bed.  
Dry sterile dressings can be changed daily or as needed.  
--Elevate left leg and right arm as much as possible to decrease 
pain and swelling
 
Followup Instructions:
___